US07326715B2
D: 4-Benzyloxy-2-methylsulfanyl-6-(3-trifluoromethylphenyl)-pyrimidine
To a stirred suspension of sodium hydride (630 mg, 60% dispersion in mineral oil) in tetrahydrofuran (20 ml) at 0° C. was added benzyl alcohol (1.09 ml). The mixture was stirred for 15 minutes then a solution of 4-chloro-2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidine (1.6 g) in tetrahydrofuran (14 ml) was added dropwise. The reaction was allowed to warm to room temperature and stirred for two hours. Solvent was evaporated under reduced pressure and the remaining residue dissolved in dichloromethane (200 ml) and washed with water (2×150 ml). Organics were separated, dried over sodium sulphate and solvent was removed under reduced pressure to yield crude product (2.5 g). Flash chromatography on silica yielded product 4-benzyloxy-2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidine (1.75 g) as a yellow solid.

reactant | sodium hydride | 630 mg | [H-].[Na+]
reactant | benzyl alcohol | 1.09 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-chloro-2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidine | 1.6 g | ClC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)SC | C12H8ClF3N2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 4-Benzyloxy-2-methylsulfanyl-6-(3-trifluoromethylphenyl)-pyrimidine | 2.5 g | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)SC | C19H15F3N2OS
